US08614206B2
To a solution of LiHMDS (1 M in THF, 1.28 mL, 1.28 mmol) at −78° C. was added (E)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-2-enone (150 mg, 0.64 mmol) and the mixture was stirred at −78° C. for 1 hr. A solution of phenylselenium bromide (453 mg, 1.92 mmol) in THF (0.5 mL) was added and the reaction mixture was warmed to 0° C. and stirred for 45 min before being quenched with a saturated aqueous solution of ammonium chloride (2 mL). The mixture was extracted with EtOAc (3×5 mL) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give (E)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)-7-(phenylselanyl)cyclohept-2-enone as an oil. This oil was dissolved in DCM (3 mL) and pyridine (0.1 mL, 1.28 mmol) was added, followed by hydrogen peroxide (30% wt in water, 0.37 mL, 3.34 mmol). The reaction mixture was stirred at room temperature for 18 hr. 1 M HCl (10 mL) was added and the mixture was extracted with DCM (2×5 mL). The combined organic layers were washed with 1 M HCl (5 mL), water (5 mL) and brine (5 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave (2E,6Z)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohepta-2,6-dienone as a yellow oil (26 mg, 17% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 6.88-6.82 (m, 1H), 6.26-6.23 (dd, J=12.0, 1.6 Hz, 1H), 6.19 (d, J=2.0 Hz, 1H), 3.87 (s, 3H), 2.82-2.73 (m, 4H).

reactant | LiHMDS | 1.28 mmol, 1 M, 1.28 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (E)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-2-enone | 0.64 mmol, 150 mg | CN1N=CC(=C1/C/1=C/C(CCCC1)=O)[N+](=O)[O-] | C11H13N3O3
reactant | phenylselenium bromide | 1.92 mmol, 453 mg | C1(=CC=CC=C1)[Se]Br | C6H5BrSe
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (E)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)-7-(phenylselanyl)cyclohept-2-enone | CN1N=CC(=C1/C/1=C/C(C(CCC1)[Se]C1=CC=CC=C1)=O)[N+](=O)[O-] | C17H17N3O3Se
